US05543406
A solution of 17β-N,N-diethylcarbamoyl-3β-triisopropylsilyloxy-6-azaandrost-5-ene (1.51 g, 2.8 mmol) in acetonitrile (100 mL) at 0° C. is treated with 48% aqueous HF (20 mL), the reaction allowed to warm to room temperature and stirred for 2 hours. The solution is then diluted with methylene chloride (200 mL), washed with H2O and saturated aqueous bicarbonate, dried over MgSO4 and concentrated to an off-white solid; yield 1.02 g crude (96%). A solution of this solid (0.48 g, 1.3 mmol) in acetone (100 mmol) is treated with Jones reagent (1 mL, 3.22M, 3.2 mmol) and warmed to room temperature. Next, isopropanol is added (10 mL), the reaction concentrated, the residue dissolved in ethyl acetate (75 mL), washed with saturated aqueous bicarbonate, dried over MgSO4 and concentrated to give 17β-N,N-diethylcarbamoyl-6-azaandrost-4-en-3-one as an off-white solid; yield: 0.22 g (46%). This material is then triturated with ether to give 172 mg pure white solid; m.p. 253°-256° C. (dec.). Anal. Calcd. for C23H36N2O2 ; C, 74.15; H, 9.74; N, 7.52. Found: C, 73.88; H, 9.77; N, 7.44.

reactant | 17β-N,N-diethylcarbamoyl-3β-triisopropylsilyloxy-6-azaandrost-5-ene | 2.8 mmol, 1.51 g | C(C)N(C(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CN=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O[Si](C(C)C)(C(C)C)C(C)C)CC | C32H58N2O2Si
reactant | acetone | 100 mmol | CC(=O)C | C3H6O
reactant | Jones reagent | 3.2 mmol, 3.22M, 1 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 17β-N,N-diethylcarbamoyl-6-azaandrost-4-en-3-one | C(C)N(C(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CNC3=CC(CC[C@]3(C)[C@H]1CC2)=O)CC | C23H36N2O2
